US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-benzyloxy-4-methylphenyl)benzamide (2.2 g), 10% palladium hydroxide (220 mg) in methanol (50 ml) was stirred under atmospheric pressure of hydrogen at ambient temperature. After 5 hours, the reaction mixture was filtered through a bed of Celite, and then concentrated to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-hydroxy-4-methylphenyl]benzamide (1.71 g).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-benzyloxy-4-methylphenyl)benzamide | 2.2 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=C(C=C2)C)OCC2=CC=CC=C2)C)C=C1 | C36H32N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium hydroxide | 220 mg | [OH-].[Pd+2].[OH-]
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-hydroxy-4-methylphenyl]benzamide | 1.71 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=C(C=C2)C)O)C)C=C1 | C29H26N2O3
